US06903086B2
To a solution of 2-amino-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester (604 mg, 2.1 mmol) in toluene (12 mL) were added pyridine (0.34 mL, 4.21 mmol) and 20% phosgene in toluene (1.58 mL, 3.04 mmol) under a nitrogen atmosphere. The mixture was heated at 90° C. for 1.5 h, cooled to room temperature and filtered. The filtrate was concentrated to dryness. To the residue were added toluene (12 mL), (5-phenyl-benzofuran-2-yl)-methanol (471 mg, 2.10 mmol) and 4-dimethylaminopyridine (26 mg, 0.21 mmol) under a nitrogen atmosphere, and the mixture was heated at 90° C. for 16 h. Following dilution with EtOAc, the mixture was washed with 2N HCl, 10% NaHCO3, and brine, dried (Na2SO4) and concentrated to dryness. Purification by chromatography gave 582 mg of 2-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester.

reactant | 2-amino-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 2.1 mmol, 604 mg | C[Si](CCOC(=O)C1=C(C=CC2=CC=CC=C12)N)(C)C | C16H21NO2Si
reactant | pyridine | 4.21 mmol, 0.34 mL | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | (5-phenyl-benzofuran-2-yl)-methanol | 2.10 mmol, 471 mg | C1(=CC=CC=C1)C=1C=CC2=C(C=C(O2)CO)C1 | C15H12O2
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 0.21 mmol, 26 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.04 mmol, 1.58 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 582 mg | C[Si](CCOC(=O)C1=C(C=CC2=CC=CC=C12)NC(=O)OCC=1OC2=C(C1)C=C(C=C2)C2=CC=CC=C2)(C)C | C32H31NO5Si
